US07666888B2
5-(2-Chlorophenyl)-4-{[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]carbonyl}isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and (R)-2-methoxymethyl-pyrrolidine (6.9 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (8.5 mg). Calcd for C16H17ClN2O3: 320.0928, found 320.0924.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | (R)-2-methoxymethyl-pyrrolidine | 0.060 mmol, 6.9 mg | COC[C@@H]1NCCC1 | C6H13NO
product | 5-(2-Chlorophenyl)-4-{[(2R)-2-(methoxymethyl)pyrrolidin-1-yl]carbonyl}isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1[C@H](CCC1)COC | C16H17ClN2O3
